US09085540B2
To a mixture of 5-[3-(acryloylamino)phenoxy]-6-ethyl-3-{[3-methyl-4-(4-oxopiperidin-1-yl)phenyl]amino}pyrazine-2-carboxamide (200 mg), morpholine (35 μL), and 1,2-dichloroethane (1.94 mL) was added sodium triacetoxyborohydride (100 mg), followed by stirring at room temperature overnight. To the reaction mixture were added a saturated aqueous sodium hydrogen carbonate solution and water, followed by extraction with chloroform twice. The extract was dried over anhydrous sodium sulfate and then the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (eluent; chloroform:methanol=100:0-99:1-97:3) to obtain 5-[3-(acryloylamino)phenoxy]-6-ethyl-3-({3-methyl-4-[4-(morpholin-4-yl)piperidin-1-yl]phenyl}amino)pyrazine-2-carboxamide (55 mg) as a solid.

reactant | 5-[3-(acryloylamino)phenoxy]-6-ethyl-3-{[3-methyl-4-(4-oxopiperidin-1-yl)phenyl]amino}pyrazine-2-carboxamide | 200 mg | C(C=C)(=O)NC=1C=C(OC=2N=C(C(=NC2CC)C(=O)N)NC2=CC(=C(C=C2)N2CCC(CC2)=O)C)C=CC1 | C28H30N6O4
reactant | morpholine | 35 μL | N1CCOCC1 | C4H9NO
reactant | sodium triacetoxyborohydride | 100 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | water | O | H2O
solvent | 1,2-dichloroethane | 1.94 mL | ClCCCl | C2H4Cl2
product | 5-[3-(acryloylamino)phenoxy]-6-ethyl-3-({3-methyl-4-[4-(morpholin-4-yl)piperidin-1-yl]phenyl}amino)pyrazine-2-carboxamide | 55 mg | C(C=C)(=O)NC=1C=C(OC=2N=C(C(=NC2CC)C(=O)N)NC2=CC(=C(C=C2)N2CCC(CC2)N2CCOCC2)C)C=CC1 | C32H39N7O4
